US08791267B2
In a 40 mL vial equipped with a stir bar was placed carbonic acid 3′-chloro-6-difluoromethoxy-biphenyl-3-ylmethyl ester methyl ester (I-151, 700 mg, 2.04 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylicacid methyl ester (590 mg, 2.24 mmol), potassium carbonate (846 mg, 6.12 mmol), 1,5-bis(diphenylphosphino)pentane (270 mg, 0.612 mmol) and DMF (10 mL). The reaction mixture was degassed for 15 minutes by bubbling nitrogen and then allylpalladium(II) chloride dimer (112 mg, 0.306 mmol) was added. The reaction mixture was heated to 85° C. for 4 hours. To the reaction mixture was added water (40 mL) and ethyl acetate (40 mL) and the mixture was filtered through Celite. The layers of the filtrate were separated and the aqueous portion was extracted with ethyl acetate (40 mL). The organic portions were combined, washed with brine (40 mL), dried (MgSO4) and concentrated. The crude material was purified by a 50 gram silica gel SNAP cartridge (Biotage SP4 Flash Chromatography instrument) utilizing gradient elution of 12-100% ethyl acetate/hexanes to produce 458 mg of I-152 as a viscous yellow solid in 56% yield.

reactant | carbonic acid 3′-chloro-6-difluoromethoxy-biphenyl-3-ylmethyl ester methyl ester | 2.04 mmol, 700 mg | COC(OCC=1C=C(C(=CC1)OC(F)F)C1=CC(=CC=C1)Cl)=O | C16H13ClF2O4
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylicacid methyl ester | 2.24 mmol, 590 mg | COC(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BNO4
reactant | potassium carbonate | 6.12 mmol, 846 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-bis(diphenylphosphino)pentane | 0.612 mmol, 270 mg | C1(=CC=CC=C1)P(CCCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
catalyst | allylpalladium(II) chloride dimer | 0.306 mmol, 112 mg | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 40 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridine-2-carboxylic acid methyl ester | 458 mg, 56% yield | COC(=O)C1=NC=C(C=C1)CC=1C=C(C(=CC1)OC(F)F)C1=CC(=CC=C1)Cl | C21H16ClF2NO3
